2186-03-17 07:20:00 Physician Resident Progress Note
Chief Complaint: Seizure
   24 Hour Events:
 MULTI LUMEN - START [**2186-3-17**] 12:34 AM
 FEVER - 101.7
F - [**2186-3-16**] 11:54 PM
   [**2186-3-16**]:
   -Had ?seizure on floor, given another 1mg ativan with apparent
   resolution
   -Pressures quickly improved with IVF
   -C diff positive per lab on metronidazole
   History obtained from Family / Friend
   [**Name (NI) **] unable to provide history: Encephalopathy
   Allergies:
   Ace Inhibitors
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2186-3-17**] 12:14 AM
   Piperacillin/Tazobactam (Zosyn) - [**2186-3-17**] 02:00 AM
   Metronidazole - [**2186-3-17**] 03:45 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2186-3-17**] 03:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-17**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 38.7
C (101.7
   Tcurrent: 38.5
C (101.3
   HR: 111 (97 - 117) bpm
   BP: 109/44(61) {98/41(56) - 151/76(87)} mmHg
   RR: 29 (18 - 33) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
             2,218 mL
   PO:
             TF:
   IVF:
   2,218 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    146 mL
   Urine:
   146 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  2,072 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.35/32/86/19/-6
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, tender abdomen (grimaced), non-distended, bowel sounds
   present, no rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   214 K/uL
   9.1 g/dL
   148 mg/dL
   1.3 mg/dL
   19 mEq/L
   4.4 mEq/L
   10 mg/dL
   112 mEq/L
   140 mEq/L
   27.7 %
   28.7 K/uL
        [image002.jpg]
                             [**2186-3-11**]  04:33 AM
                             [**2186-3-12**]  08:28 PM
                             [**2186-3-13**]  04:02 AM
                             [**2186-3-16**]  11:24 PM
                             [**2186-3-17**]  12:07 AM
                             [**2186-3-17**]  04:39 AM
   WBC
   12.1
   11.7
   20.2
   28.7
   Hct
   34.8
   33.5
   30.2
   27.7
   Plt
   [**Telephone/Fax (3) 11347**]14
   Cr
   1.1
   1.0
   1.0
   1.3
   1.3
   TropT
   0.08
   TCO2
   18
   Glucose
   88
   166
   156
   134
   148
   Other labs: PT / PTT / INR:17.5/60.1/1.6, CK / CKMB /
   Troponin-T:859/4/0.08, ALT / AST:18/39, Alk Phos / T Bili:49/0.5,
   Differential-Neuts:87.2 %, Lymph:8.2 %, Mono:4.0 %, Eos:0.4 %, Lactic
   Acid:2.6 mmol/L, Albumin:2.6 g/dL, LDH:302 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR:New Rt SCV CVL tip likely in low SVC (if tip of RUE PICC
   unchanged). Bibasilar likely atelectasis. No PTX seen.
   Images: Non-con CT head: Little change since [**3-9**]. No new hemmorrhage,
   edema, or masses. Extensive encehalomalacia.
   Microbiology: Micro:Blood cx 1/30x 2, [**3-15**], [**3-16**] NGTD; PICC tip cx NGTD;
   C diff pending; sputum [**3-11**] flora; urine cx [**3-9**] 10-100K pan [**Last Name (un) 46**] E
   coli,
   C diff positive
   ECG: EKG: Sinus tach. Hr 130. LAD. Poor baseline. 1mm ST depression V4.
   No other ST or TW changes.
   Assessment and Plan
 CENTRAL SLEEP APNEA (CSA)
 HYPERTENSION, BENIGN
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 LARGE BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, INCLUDING VOLVULUS,
   ADHESIONS)
 H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
 C DIFF COLITIS
 FEVER
 SINUS TACHYCARDIA
   Assessment and Plan: 86 year old gentleman with history of CVA and
   seizures, DM2, hypertension initially admitted with seizure now POD#3
   partial sigmoid colectomy with course c/b fevers and leukocytosis now
   transferred to [**Hospital Unit Name 4**] after seizure and Iv ativan for airway management.
   .
   # Seizure: Pt initially admitted with seizure and has been followed by
   neurology on the floor who feel he has partial seizures which
   secondarily generalize in the setting of multiple prior infarcts and
   other medical issues including hypernatremia, sigmoid volvulus, fevers
   and infection. [**Month (only) 8**] also have been precipitated by flagyl dose this pm
   which can lower the seizure threshold. Patient noted to have witnessed
   seizure on the floor today (tonic clonic activity and hyperventilation,
   rigidity RUE) which resolved with IV ativan 2mg IV x 2. Currently, he
   is protecting his airway and ABG without hypercapnia or signs of
   respiratory failure. State head CT without acute process.
   - Discuss with surgery re second antiepileptic drug given seizure on
   dilantin (although slightly low drug level)
   - continue dilantin 100mg IV q8 with am phenytoin levels, goal 15-20
   - ativan prn
   - continuous O2 monitoring
   - seizure and aspiration precautions
   - appreciate neurology recommendations
   .
   # Hypotension: Pt hypotensive on arrival, likely secondary to med
   effect from labetalol and ativan as well as hypovolemia given rapid
   response to IVF. BP has since remained stable. Also concern for
   developing sepsis as below, and ACS also in the ddx although no
   ischemic EKG changes.
   - continue to trend BP
   -Trend cardiac enzymes
   - IVF boluses prn maintain MAP>65, UOP>0.5cc/kg/hr
   .
   # Fever/leukocytosis: Patient having fevers to 101 on floor and
   leukocytosis of unclear etiology. Most likely a result of C diff
   colitis with sepsis ([**5-14**] SIRS critieria). Differential diagnosis
   includes catheter related bloodstream infection (PICC removed
   yesterday),  intraabdominal infection, post-op infection, Wound
   currently does not seem infected.
   - Continue metronidazole 800mg IV Q8H, vancomycin 500mg PO liquid Q6H
   - broad spectrum coverage for now- Vanco/Zosyn given ddx includes
   intraabdominal infection other than C diff
   - F/U and repeat blood cx and urine cx; F/U wound tip cx
   - LUE U/S given assymetric edema although had negative U/S as
   outpatient
   - NG Tube placement
   - KUB to eval for toxic megacolon and to assess resolution of volvulus
   after surgery
   - repeat CXR in am with upper abdomen to confirm NG tube placement
   - consider CT abdomen/pelvis for further eval if pt does not improve
   with vanc/flagyl
   - tylenol prn fever
   .
   # Sinus tachycardia: Patient now tachycardic HR 100s likely secondary
   to dehydration, fever, holding recent PO meds (on 360mg PO dilt at
   home, on lopressor IV on floor since unable to tolerate PO)
   - Hold diltiazem and lopressor for now
   - IVF boluses PRN as above
   - tylenol prn fever
   .
   # [**Last Name (un) **]: Cr 1.3 from 1.1, likley prerenal as above secondary to
   dehydration. has now received 2L NS.
   - continue to trend with IVF, monitor UOP
   - consider urine lytes if trends up
   .
   # Sigmoid volvulus: s/p colonoscopy and sigmoid colectomy, appreciate
   surgery recommendations
   - F/u surgery recs
   - Discuss with surgery re when to start NG nutrition
   .
   # DM2: Will continue home lantus 15 units qhs and HISS with FS QID
   .
   # Hyperlipidemia: holding statin
   .
   FEN: No IVF, replete electrolytes, NPO per speech and swallow eval on
   [**3-16**] who will re-eval in am
   .
   Prophylaxis: Subutaneous heparin
   .
   Access: R subclavian line
   .
   Code: Will need to readdress goals of care. Patient previously DNR/DNI,
   code reversed for surgery and now son and HCP states full code. Per
   surgery team, they will call son to clarify goals of care.
   .
   Communication: Patient and son
   .
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2186-3-17**] 12:34 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2186-03-18 07:54:00 Physician Resident Progress Note
Chief Complaint: AMS, leukocytosis, cdiff
   24 Hour Events:
 ULTRASOUND - At [**2186-3-17**] 10:00 AM
   lt upper arm
 EEG - At [**2186-3-17**] 12:01 PM
 FEVER - 101.7
F - [**2186-3-17**] 08:00 AM
   -NGT placed
   -on po and iv vanc and flagyl and zosyn
   -Neuro recs: continue dilantin 15-20, no seizure activity on EEG, no
   need to start another AED, daily dilantin
   -S&S: NPO
   -GOC discussed: full code
   -prelim doppler shows no DVT in LUE
   -abdominal exam stable
   -got 3L IVF for SBP 80s
   -kept meds IV because of ? illeus on KUB
   History obtained from Family / [**Hospital 216**] Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   Ace Inhibitors
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2186-3-17**] 06:23 PM
   Metronidazole - [**2186-3-18**] 05:00 AM
   Vancomycin - [**2186-3-18**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2186-3-17**] 11:48 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Genitourinary: Foley
   Flowsheet Data as of  [**2186-3-18**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 38.7
C (101.7
   Tcurrent: 35.7
C (96.2
   HR: 96 (82 - 112) bpm
   BP: 154/46(74) {69/28(39) - 154/57(74)} mmHg
   RR: 38 (21 - 39) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  7,243 mL
                                                                    318 mL
   PO:
             TF:
   IVF:
                                                                  7,063 mL
                                                                    258 mL
   Blood products:
   Total out:
                                                                    514 mL
                                                                    200 mL
   Urine:
                                                                    514 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,729 mL
                                                                    118 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///17/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Bronchial: , Rhonchorous: )
   Abdominal: Soft, No(t) Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   252 K/uL
   9.0 g/dL
   139 mg/dL
   1.4 mg/dL
   17 mEq/L
   3.4 mEq/L
   12 mg/dL
   112 mEq/L
   140 mEq/L
   26.2 %
   31.9 K/uL
        [image002.jpg]
                             [**2186-3-11**]  04:33 AM
                             [**2186-3-12**]  08:28 PM
                             [**2186-3-13**]  04:02 AM
                             [**2186-3-16**]  11:24 PM
                             [**2186-3-17**]  12:07 AM
                             [**2186-3-17**]  04:39 AM
                             [**2186-3-17**]  11:46 AM
                             [**2186-3-18**]  04:14 AM
   WBC
   12.1
   11.7
   20.2
   28.7
   31.9
   Hct
   34.8
   33.5
   30.2
   27.7
   26.2
   Plt
   [**Telephone/Fax (3) 11347**]14
   252
   Cr
   1.1
   1.0
   1.0
   1.3
   1.3
   1.4
   TropT
   0.08
   0.10
   0.08
   TCO2
   18
   Glucose
   88
   166
   156
   134
   148
   139
   Other labs: PT / PTT / INR:18.3/78.8/1.7, CK / CKMB /
   Troponin-T:959/7/0.08, ALT / AST:22/48, Alk Phos / T Bili:51/0.4,
   Differential-Neuts:87.2 %, Lymph:8.2 %, Mono:4.0 %, Eos:0.4 %, Lactic
   Acid:2.6 mmol/L, Albumin:2.6 g/dL, LDH:313 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Imaging: .
   Microbiology: .
   [1]Labs - Microbiology
   (since [**2184-9-16**])
   [2][**2186-3-17**]
   STOOL
   Final - negative
   [3][**2186-3-17**]
   MRSA SCREEN
   Pending
   [4][**2186-3-17**]
   BLOOD CULTURE
   Pending
   [5][**2186-3-17**]
   BLOOD CULTURE
   Pending
   [6][**2186-3-16**]
   CATHETER TIP-IV
   Preliminary : no growth
   [7][**2186-3-16**]
   BLOOD CULTURE
   Pending
   Assessment and Plan
   86 year old gentleman with history of CVA and seizures, DM2,
   hypertension initially admitted with seizure now POD#3 partial sigmoid
   colectomy with course c/b fevers and leukocytosis.
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   WBC rising. Abdominal exam stable. Having BMs.
   -cont high dose oral vanc
   -cont IV flagyl
   -hold tube feeds
 LEUKOCYTOSIS
   Concern for other infectious process. F/u CXR.
   -continue vanc IV and zosyn in addition to abx for cdiff as above
 DYSPNEA (SHORTNESS OF BREATH)
   Alternating tachypnea and apnea. Very rhoncerous this am.
   -f/u CXR
 TACHYCARDIA, OTHER
   HR and BP improved after IVF.
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   no seizure activity on EEG
   -cont dilantin to keep levels > 15
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   No continued seizure activity. Could be secondary to infection.
 CENTRAL SLEEP APNEA (CSA)
 DIABETES MELLITUS (DM), TYPE II
   ISS and reduced lantus (8 from 15 at home)
 HYPERTENSION, BENIGN
   -BP stable
   -cont lopressor with holding parameters
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
   # [**Last Name (un) **]
   Cr 1.3 from 1.1, likley prerenal as above secondary to dehydration. has
   now received 2L NS.
   - continue to trend with IVF, monitor UOP
   - consider urine lytes if trends up
   # S/P sigmoid colectomy
   - F/u surgery recs
   - TPN for nutrition
   # Hyperlipidemia: holding statin
   ICU Care
   Nutrition: TPN
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2186-3-17**] 12:34 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
References
   1. javascript:document.form._SEL.value='res%5eMicrobiology%5eLabs%20-%20Microbiology';document.form.submit();
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_10%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_11%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_12%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_13%22,640,400,50,50,1);

2186-03-19 07:32:00 Physician Resident Progress Note
Chief Complaint: Seizure
   24 Hour Events:
   - po vanc switched to pr vanc (b/c high residuals)
   - got kub that showed slight increase in small bowel distention and
   reduced sigmoid distention
   - d/c'd metoprolol because was hypotensive overnight [**3-17**]
   - cvp 6
   - pt w/ high residuals, on low wall suction
   - started tpn
   - surgery recommended nebs/pulm toilet
   - frequent apneic episodes overnight
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Ace Inhibitors
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2186-3-19**] 02:00 AM
   Metronidazole - [**2186-3-19**] 04:00 AM
   Vancomycin - [**2186-3-19**] 06:25 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2186-3-18**] 06:38 PM
   Morphine Sulfate - [**2186-3-18**] 07:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-19**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.3
C (97.4
   HR: 84 (81 - 106) bpm
   BP: 126/43(61) {103/40(55) - 156/64(89)} mmHg
   RR: 27 (21 - 35) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
    CVP: 265 (6 - 307)mmHg
   Total In:
                                                                  1,761 mL
                                                                    398 mL
   PO:
   TF:
   IVF:
                                                                  1,701 mL
                                                                    398 mL
   Blood products:
   Total out:
                                                                  2,225 mL
                                                                    420 mL
   Urine:
                                                                    875 mL
                                                                    420 mL
   NG:
                                                                  1,350 mL
   Stool:
   Drains:
   Balance:
                                                                   -464 mL
                                                                    -22 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///17/
   Physical Examination
   General Appearance: Overweight, loud upper-respiratory sounds
   Head, Ears, Nose, Throat: NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Bronchial: , Rhonchorous: )
   Abdominal: Soft, No(t) Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   285 K/uL
   9.0 g/dL
   159 mg/dL
   1.3 mg/dL
   17 mEq/L
   3.7 mEq/L
   13 mg/dL
   114 mEq/L
   142 mEq/L
   28.0 %
   25.2 K/uL
        [image002.jpg]
                             [**2186-3-11**]  04:33 AM
                             [**2186-3-12**]  08:28 PM
                             [**2186-3-13**]  04:02 AM
                             [**2186-3-16**]  11:24 PM
                             [**2186-3-17**]  12:07 AM
                             [**2186-3-17**]  04:39 AM
                             [**2186-3-17**]  11:46 AM
                             [**2186-3-18**]  04:14 AM
                             [**2186-3-18**]  10:24 PM
                             [**2186-3-19**]  05:29 AM
   WBC
   12.1
   11.7
   20.2
   28.7
   31.9
   25.2
   Hct
   34.8
   33.5
   30.2
   27.7
   26.2
   28.0
   Plt
   [**Telephone/Fax (2) 11398**]
   Cr
   1.1
   1.0
   1.0
   1.3
   1.3
   1.4
   1.3
   1.3
   TropT
   0.08
   0.10
   0.08
   TCO2
   18
   Glucose
   88
   166
   156
   134
   148
   139
   212
   159
   Other labs: PT / PTT / INR:15.5/66.9/1.4, CK / CKMB /
   Troponin-T:959/7/0.08, ALT / AST:24/34, Alk Phos / T Bili:48/0.3,
   Differential-Neuts:87.2 %, Lymph:8.2 %, Mono:4.0 %, Eos:0.4 %, Lactic
   Acid:2.6 mmol/L, Albumin:2.6 g/dL, LDH:313 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.4 mg/dL
   Imaging: KUB [**2186-3-18**]:
   FINDINGS: As compared to the previous examination, the pre-existing gas
   distension of the small bowel loops, predominating in the left parts of
   the
   abdomen, has slightly increased. The sigmoid distension, on the other
   hand,
   has slightly decreased in extent. No free abdominal air. Unchanged
   position
   of nasogastric tube and vena cava filter, unchanged course of the left
   basal clips.
   CXR AP [**2186-3-18**]:
   FINDINGS: As compared to the previous radiograph, the monitoring and
   support devices are unchanged. The lung volumes have decreased. As a
   result, the vascular structures are slightly crowded, notably at the
   lung bases. There is an apparent increase in diameter of the cardiac
   silhouette. However, no overt signs of pulmonary edema are present.
   Newly occurred blunting of the left costophrenic sinus, so that the
   presence of a minimal left-sided pleural effusion cannot be excluded.
   Unremarkable hilar and mediastinal contours.
   LUE U/S [**2186-3-17**]:
   IMPRESSION: No left upper extremity DVT.
   EEG [**2186-3-17**]:
   IMPRESSION: This is an abnormal portable EEG due a slow and
   disorganized background rhythm, which was also of low voltage
   consistent with a mild to moderate encephalopathy. Medications,
   toxic/metabolic disturbances
   and infections are common causes. Anoxia is also a possible etiology.
   No epileptiform discharges or electrographic seizures were seen during
   this recording.
   Microbiology: Blood cx [**3-15**], [**3-16**], [**3-17**] with NGTD.
   86 year old gentleman with history of CVA and seizures, DM2,
   hypertension initially admitted with seizure now POD#3 partial sigmoid
   colectomy with course c/b fevers and leukocytosis.
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   WBC rising. Abdominal exam stable. Having BMs.
   -cont high dose oral vanc
   -cont IV flagyl
   -hold tube feeds
 LEUKOCYTOSIS
   Concern for other infectious process. F/u CXR.
   -continue vanc IV and zosyn in addition to abx for cdiff as above
 DYSPNEA (SHORTNESS OF BREATH)
   Alternating tachypnea and apnea. Very rhoncerous this am.
   -f/u CXR
 TACHYCARDIA, OTHER
   HR and BP improved after IVF.
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   no seizure activity on EEG
   -cont dilantin to keep levels > 15
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   No continued seizure activity. Could be secondary to infection.
 CENTRAL SLEEP APNEA (CSA)
 DIABETES MELLITUS (DM), TYPE II
   ISS and reduced lantus (8 from 15 at home)
 HYPERTENSION, BENIGN
   -BP stable
   -cont lopressor with holding parameters
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
   # [**Last Name (un) **]
   Cr 1.3 from 1.1, likley prerenal as above secondary to dehydration. has
   now received 2L NS.
   - continue to trend with IVF, monitor UOP
   - consider urine lytes if trends up
   # S/P sigmoid colectomy
   - F/u surgery recs
   - TPN for nutrition
   # Hyperlipidemia: holding statin
   ICU Care
   Nutrition: TPN
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2186-3-17**] 12:34 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   86M CVAs, seizures, DM admit with confusion - found to be seizing,
   developed sigmoid volvulus s/p decompression / resection [**3-14**] - found
   febrile, seizing and hypertensive overnight, sent to ICU after
   developing hypotension in the setting of labetalol / ativan. C. diff +
   [**3-17**]. Febrile to 101.7 overnight. Remains on Vanc/ IV Flagyl/ PO
   vanc/Zosyn. Bilious residulals.
   Exam notable for Tm 101.7 BP 154/46 HR 96 RR 21-39 with sat 100 on FM.
   Barely arousable this am, starts to open eyes to verbal stimulus, not
   moving extremities, moaning. Coarse UA sounds. RRR s1s2. Dist +BS, LLQ
   wound c/d/I, abd nontender, anasarca
   Labs notable for WBC 32K, HCT 26, K+ 3.4, Cr 1.4, lactate 2.6, Cdiff
   positive.
   U/o 20-30 cc/hr, CXR
 reviewed, smaller lung volumes
   Agree with plan to manage severe c. diff in patient s/p sigmoid
   colectomy / reanastomosis with vanco PO and IV flagyl.
   - Probable ileus, keep NG at LWS, continue PO vanc/Flagyl for cdiff.
   - Leukocytosis likely d/t cdiff, but may have other source of infection
   - Apneic episodes yesterday may be med related, no recurrence of CSR
   today, possible OSA at baseline
   - Seizure ? related to Flagyl toixicity,  on phosfenytoin, with
   adjusted level 15-20 range based on serum albumin
   - DM, on insulin
   - Hypotension, hold antihypertensives
   - ARF, watch u/o, CVP, consider gentle hydration, would need NAC / HCO3
   prior to I+ CT if he decompensates
   - full for now. Remains full code but will continue to update family.
   Remainder of plan as outlined above.

2186-03-19 12:25:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   PO vanc switched to PR and started on NG LWS because of high residuals
   Electrolytes repleted
   KUB - small inc in SB dist, but slight [**Month (only) 453**] in sigmoid dist
   Desats to 82-85% overnight
   Loose bowel movements
   TPN started
   Allergies:
   Ace Inhibitors
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2186-3-19**] 02:00 AM
   Metronidazole - [**2186-3-19**] 04:00 AM
   Vancomycin - [**2186-3-19**] 06:25 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2186-3-18**] 06:38 PM
   Morphine Sulfate - [**2186-3-18**] 07:15 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-19**] 12:06 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 85 (81 - 106) bpm
   BP: 141/52(77) {107/41(57) - 156/64(89)} mmHg
   RR: 24 (21 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 265 (264 - 307)mmHg
   Total In:
                                                                  2,055 mL
                                                                  1,173 mL
   PO:
   TF:
   IVF:
                                                                  1,701 mL
                                                                    540 mL
   Blood products:
   Total out:
                                                                  2,225 mL
                                                                    480 mL
   Urine:
                                                                    875 mL
                                                                    480 mL
   NG:
                                                                  1,350 mL
   Stool:
   Drains:
   Balance:
                                                                   -170 mL
                                                                    693 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: ///17/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, groaning, slightly more responsive
   Labs / Radiology
   9.0 g/dL
   285 K/uL
   159 mg/dL
   1.3 mg/dL
   17 mEq/L
   3.7 mEq/L
   13 mg/dL
   114 mEq/L
   142 mEq/L
   28.0 %
   25.2 K/uL
        [image002.jpg]
                             [**2186-3-11**]  04:33 AM
                             [**2186-3-12**]  08:28 PM
                             [**2186-3-13**]  04:02 AM
                             [**2186-3-16**]  11:24 PM
                             [**2186-3-17**]  12:07 AM
                             [**2186-3-17**]  04:39 AM
                             [**2186-3-17**]  11:46 AM
                             [**2186-3-18**]  04:14 AM
                             [**2186-3-18**]  10:24 PM
                             [**2186-3-19**]  05:29 AM
   WBC
   12.1
   11.7
   20.2
   28.7
   31.9
   25.2
   Hct
   34.8
   33.5
   30.2
   27.7
   26.2
   28.0
   Plt
   [**Telephone/Fax (2) 11398**]
   Cr
   1.1
   1.0
   1.0
   1.3
   1.3
   1.4
   1.3
   1.3
   TropT
   0.08
   0.10
   0.08
   TCO2
   18
   Glucose
   88
   166
   156
   134
   148
   139
   212
   159
   Other labs: PT / PTT / INR:15.5/66.9/1.4, CK / CKMB /
   Troponin-T:959/7/0.08, ALT / AST:24/34, Alk Phos / T Bili:48/0.3,
   Differential-Neuts:87.2 %, Lymph:8.2 %, Mono:4.0 %, Eos:0.4 %, Lactic
   Acid:2.6 mmol/L, Albumin:2.6 g/dL, LDH:313 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.4 mg/dL
   Microbiology: cdiff #1 - pos
   BC from 2/3-5 neg so far
   Assessment and Plan
   86M CVAs, seizures, DM admit with confusion - found to be seizing,
   developed sigmoid volvulus s/p decompression / resection [**3-14**] - found
   febrile, seizing and hypertensive overnight, sent to ICU after
   developing hypotension in the setting of labetalol / ativan. C. diff +
   [**3-17**]. Febrile to 101.7 overnight. Remains on Vanc/ IV Flagyl/ PO
   vanc/Zosyn. Bilious residuals.
   Agree with plan to manage severe c. diff in patient s/p sigmoid
   colectomy / reanastomosis with vanco PR and IV flagyl.
   1. Altered mental status/neuro: toxic metabolic vs intra-op event, most
   likely i.e. meds with ARF, not status per yesterday
s EEG, has baseline
   dementia. Seizure ? related to Flagyl toixicity,  on phosfenytoin, with
   adjusted level 15-20 range based on serum albumin
   2. Ileus with high residuals, keep NG at LWS, continue PR vanc/IV
   Flagyl for cdiff.
   Cdiff/leukocytosis, lactic acidosis
 abx as above, leukocyt likely
   cdiff
   3. Resp / Probable sleep disordered breathing: apneic episodes and
   likely obstructive with enlarged tongue/uvula. Consider empiric BiPAP
   while in ICU. Check ABG. Needs freq suctioning
   4. DM, on insulin
   5. ARF, watch u/o, CVP, consider gentle hydration, would need NAC /
   HCO3 prior to I+ CT if he decompensates
   6. Nutrition - TPN started
   Remains full code, will continue to update family. Remainder of plan as
   outlined in Dr [**Last Name (STitle) 11404**]
s note.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2186-3-18**] 05:00 PM 42 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2186-3-17**] 12:34 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments: son to be updated
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2186-03-20 07:24:00 Physician Resident Progress Note
Chief Complaint: altered mental status, cdiff
   24 Hour Events:
   -FeNa 1.07, borderline. Given CVP 6, at least some component of
   prerenal.
   -Pt continues to have episodes of apnea desating to 80s, trying Bipap
   at nighttime at 8/8
   -Got an ABG because of occasional apnea was totally nl
   -Restarted simvastatin 20mg PO Daily
   History obtained from Family / [**Hospital 216**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Ace Inhibitors
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2186-3-20**] 02:09 AM
   Metronidazole - [**2186-3-20**] 04:39 AM
   Vancomycin - [**2186-3-20**] 06:23 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2186-3-20**] 12:40 AM
   Hydralazine - [**2186-3-20**] 03:31 AM
   Morphine Sulfate - [**2186-3-20**] 04:51 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Psychiatric / Sleep: Daytime somnolence
   Flowsheet Data as of  [**2186-3-20**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 82 (70 - 93) bpm
   BP: 119/66(77) {119/45(63) - 178/70(94)} mmHg
   RR: 14 (14 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 9 (9 - 9)mmHg
   Total In:
                                                                  2,466 mL
                                                                    825 mL
   PO:
   TF:
   IVF:
                                                                  1,280 mL
                                                                    496 mL
   Blood products:
   Total out:
                                                                  1,400 mL
                                                                    230 mL
   Urine:
                                                                  1,100 mL
                                                                    230 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                  1,066 mL
                                                                    595 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 99%
   ABG: 7.41/35/96.[**Numeric Identifier 7**]/19/-1
   PaO2 / FiO2: 277
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   286 K/uL
   9.1 g/dL
   243 mg/dL
   1.3 mg/dL stable
   19 mEq/L (from 17)
   3.6 mEq/L
   16 mg/dL
   115 mEq/L
   144 mEq/L
   28.7 %
   19.3 K/uL
        [image002.jpg]
                             [**2186-3-13**]  04:02 AM
                             [**2186-3-16**]  11:24 PM
                             [**2186-3-17**]  12:07 AM
                             [**2186-3-17**]  04:39 AM
                             [**2186-3-17**]  11:46 AM
                             [**2186-3-18**]  04:14 AM
                             [**2186-3-18**]  10:24 PM
                             [**2186-3-19**]  05:29 AM
                             [**2186-3-19**]  09:45 PM
                             [**2186-3-20**]  04:39 AM
   WBC
   11.7
   20.2
   28.7
   31.9
   25.2
   19.3
   Hct
   33.5
   30.2
   27.7
   26.2
   28.0
   28.7
   Plt
   [**Telephone/Fax (3) 11411**]
   Cr
   1.0
   1.3
   1.3
   1.4
   1.3
   1.3
   1.3
   TropT
   0.08
   0.10
   0.08
   TCO2
   18
   23
   Glucose
   166
   156
   134
   148
   139
   212
   159
   158
   243
   Other labs: PT / PTT / INR:14.0/39.3/1.2 (from 1.4), CK / CKMB /
   Troponin-T:959/7/0.08, ALT / AST:24/29 stable, down trending, Alk Phos
   / T Bili:44/0.3 stable, down trending, Differential-Neuts:75.5 %,
   Lymph:14.8 %, Mono:6.8 %, Eos:2.4 %, Lactic Acid:1.4 mmol/L,
   Albumin:2.6 g/dL, LDH:290 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.3
   mg/dL
   Fluid analysis / Other labs: PHenytoin: 18.4
   Imaging:
   CXR [**3-19**]:
   FINDINGS: Cardiac silhouette is mildly enlarged but stable in size. A
   new
   patchy area of alveolar opacification has developed at the right lung
   base and
   may be due to the clinically suspected diagnosis of aspiration.
   Followup
   radiographs may be helpful to exclude an evolving area of infection.
   Microbiology: no new growth
   Assessment and Plan
   86 year old gentleman with history of CVA and seizures, DM2,
   hypertension s/p partial sigmoid colectomy for volvulus with course c/b
   fevers, leukocytosis, altered mental status.
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   -continue vanc PR and IV flagyl
   -KUB for any change in exam
   -low threshold to scan
 ALTERED MENTAL STATUS
   Likely toxic-metabolic. EEG abnormal but not epileptiform.
   -cont dilantin with increased levels 15-20, corrected for albumin
 DYSPNEA (SHORTNESS OF BREATH)
   ABG wnl. Alternating tachypnea and apnea. Suspect a comination of
   central given h/o multiple CVAs, seizures, [**Last Name (un) 631**]-[**Doctor Last Name 632**] and toxic
   metabolic encepahlopathy on EEG, and obstructive sleep apnea, given
   large uvula and overweight status.
   -nasal trumpet
   -Bipap at night
   -Treat underlying processes such as sepsis which are likely
   exacerbating the central sleep apnea
 LEUKOCYTOSIS: Trending down. Treating Cdiff. Aspiration likely on
   CXR. Other infectious process such as post-op intrabdominal process
   still on differential.
   -continue vanc IV and zosyn in addition to abx for cdiff as above
   -f/u blood cx
   -low threshold for CT abdomen if decompensates
 HYPERTENSION, BENIGN
   Holding home meds. On hydral prn. Still concern for shock.
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   As above
 DIABETES MELLITUS (DM), TYPE II
   --ISS plus lantus
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
   --Restarted statin
 [**Last Name (un) **] Stable. Cr 1.3 from 1.1, likley prerenal
   - continue to trend with IVF, monitor UOP
   - consider urine lytes if trends up
 Non-gap metabolic acidosis, hyperchloremic
   -if needs IVF, will use LR
 S/P sigmoid colectomy
   - F/u surgery recs
   - TPN for nutrition
 Hyperlipidemia:
   -restart statin
   ICU Care
   Nutrition:
   TPN without Lipids - [**2186-3-19**] 04:51 PM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2186-3-17**] 12:34 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2186-03-21 06:55:00 Physician Resident Progress Note
Chief Complaint: [**2186-3-20**]:
   24 Hour Events:
   -holding midday dilantin for elevated albumin corrected levels
   -stopped IV vanc and zosyn
   -continuing non-invasive ventilation intermittently
   Allergies:
   Ace Inhibitors
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2186-3-20**] 05:57 PM
   Vancomycin - [**2186-3-20**] 09:42 PM
   Metronidazole - [**2186-3-21**] 04:28 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2186-3-21**] 12:01 AM
   Pantoprazole (Protonix) - [**2186-3-21**] 12:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-21**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 78 (75 - 93) bpm
   BP: 134/42(63) {119/40(63) - 166/105(139)} mmHg
   RR: 23 (16 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,854 mL
                                                                    793 mL
   PO:
             TF:
   IVF:
                                                                  1,538 mL
                                                                    248 mL
   Blood products:
   Total out:
                                                                  1,470 mL
                                                                    440 mL
   Urine:
                                                                    745 mL
                                                                    290 mL
   NG:
                                                                    725 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  1,384 mL
                                                                    354 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   Moaning, regular rate, distended but soft abdomen w/ staples c/d/i.
   Labs / Radiology
   KUB [**3-20**]:
   Mildly dilated small bowel loops [**Last Name (un) 9416**] 4.2 cm, not significantly changed
   since
   prior study. Air is seen in a non-dilated ascending colon. diffuse
   haziness of
   the abdomen could represent ascites
   343 K/uL
   8.9 g/dL
   109 mg/dL
   1.2 mg/dL
   24 mEq/L
   3.6 mEq/L
   19 mg/dL
   116 mEq/L
   147 mEq/L
   26.7 %
   15.7 K/uL
        [image002.jpg]
                             [**2186-3-16**]  11:24 PM
                             [**2186-3-17**]  12:07 AM
                             [**2186-3-17**]  04:39 AM
                             [**2186-3-17**]  11:46 AM
                             [**2186-3-18**]  04:14 AM
                             [**2186-3-18**]  10:24 PM
                             [**2186-3-19**]  05:29 AM
                             [**2186-3-19**]  09:45 PM
                             [**2186-3-20**]  04:39 AM
                             [**2186-3-21**]  02:57 AM
   WBC
   20.2
   28.7
   31.9
   25.2
   19.3
   15.7
   Hct
   30.2
   27.7
   26.2
   28.0
   28.7
   26.7
   Plt
   [**Telephone/Fax (3) **]85
   286
   343
   Cr
   1.3
   1.3
   1.4
   1.3
   1.3
   1.3
   1.2
   TropT
   0.08
   0.10
   0.08
   TCO2
   18
   23
   Glucose
   156
   134
   148
   139
   [**Telephone/Fax (2) 11428**]43
   109
   Other labs: PT / PTT / INR:14.0/39.3/1.2, CK / CKMB /
   Troponin-T:959/7/0.08, ALT / AST:24/29, Alk Phos / T Bili:44/0.3,
   Differential-Neuts:75.5 %, Lymph:14.8 %, Mono:6.8 %, Eos:2.4 %, Lactic
   Acid:1.4 mmol/L, Albumin:2.7 g/dL, LDH:290 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 DYSPNEA (SHORTNESS OF BREATH)
 TACHYCARDIA, OTHER
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 CENTRAL SLEEP APNEA (CSA)
 HYPERTENSION, BENIGN
 DIABETES MELLITUS (DM), TYPE II
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
   86 year old gentleman with history of CVA and seizures, DM2,
   hypertension s/p partial sigmoid colectomy for volvulus with course c/b
   fevers, leukocytosis, altered mental status.
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE): Currently, constipated.  Will continue vanc and flagyl for
   c diff, and add bowel regimen.
 ALTERED MENTAL STATUS : Likely toxic-metabolic. EEG abnormal but not
   epileptiform.
   -Cont dilantin, target level of 15-20; will discuss w/ pharmacy and
   neuro re: dose reduction as albumin corrected levels continue to be
   high
 APNEA/TACHYPNEA: Has not had desats or apneic episodes.  Previously,
   had alternating tachypnea and apnea likely secondary to combination of
   central given h/o multiple CVAs, seizures, [**Last Name (un) 631**]-[**Doctor Last Name 632**] and toxic
   metabolic encepahlopathy on EEG, and obstructive sleep apnea, given
   large uvula and overweight status.
   -Trial nasal cannula, CPAP if needed
   -Continue to monitor sats
 LEUKOCYTOSIS: Trending down. Treating Cdiff. Aspiration likely on
   CXR, has been treated with 5 days of vanc and zosyn for nosocomial
   pneumonia. Other infectious process such as post-op intrabdominal
   process still on differential.
   -Continue treating c diff as outlined above
   -F/u blood cx
 HYPERTENSION, BENIGN: Currently holding home meds
   -Continue hydral prn
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   - Continue dilantin and check levels daily
 DIABETES MELLITUS (DM), TYPE II
   --ISS plus lantus
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
   --Continue statin
 [**Last Name (un) **] Stable. Stable
 S/P sigmoid colectomy
   - F/u surgery recs
   - TPN for nutrition; per surgery continue TPN today continue to monitor
   low residuals, if continues to improve can consider tube feeds tomorrow
 Hyperlipidemia:
   -Continue statin
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2186-3-21**] 05:52 PM 70.[**Telephone/Fax (5) 2666**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2186-3-17**] 12:34 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU